US07598257B2
Step 1: 3-{1-[4-(7-{[2-(Trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]but-3-yn-1-yl}benzonitrile
1 M Diisobutylaluminum hydride in hexane (0.31 mL) was added dropwise to a solution of methyl 3-(3-cyanophenyl)-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanoate (100 mg, 0.0002 mol) (prepared by using a procedure analogous to Example 712, Step 1) in DCM (3 mL, 0.05 mol) and the mixture was cooled to −78° C. The reaction mixture was stirred at −78° C. for 4 h and was afterward quenched with cold methanol (3 mL, 0.07 mol). The reaction was allowed to warm to 0° C. and potassium carbonate (60 mg, 0.0004 mol) and Bestmann-Ohira reagent (1.5 eq, 57 mg) (E. Quesada et al, Tetrahedron, 62 (2006) 6673-6680) were added. The reaction was stirred at room temperature overnight, and then partitioned between ethyl acetate and water. The organic layer was washed with saturated NaCl, dried over MgSO4, filtered and concentrated to give the crude product. The crude product was purified using silica gel (EtOAC/Hexane 1:3 to 1:1) to give the desired product, 3-{1-[4-(7-{[2-(trimethylsilyl)ethoxy]-methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]but-3-yn-1-yl}benzonitrile (40 mg of mixture). m/z=469 (M+1).

reactant | Diisobutylaluminum hydride | 1 M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl 3-(3-cyanophenyl)-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanoate | 0.0002 mol, 100 mg | C(#N)C=1C=C(C=CC1)C(CC(=O)OC)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C26H30N6O3Si
reactant | DCM | 0.05 mol, 3 mL | C(Cl)Cl | CH2Cl2
reactant | methanol | 0.07 mol, 3 mL | CO | CH4O
reactant | potassium carbonate | 0.0004 mol, 60 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Bestmann-Ohira reagent | 57 mg, 1.5 eq | C/C(=C(\[N+]#N)/P(=O)(OC)OC)/[O-] | C5H9N2O4P
solvent | hexane | 0.31 mL | CCCCCC | C6H14
product | 3-{1-[4-(7-{[2-(trimethylsilyl)ethoxy]-methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]but-3-yn-1-yl}benzonitrile | 40 mg | C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C(CC#C)C=2C=C(C#N)C=CC2)(C)C | C26H28N6OSi
